US07939524B2
b) rac-(1S,2S,4R,5R,6R,7S)-7-(Methoxycarbonyl)tricyclo[3.2.2.02,4]non-8-ene-6-carboxylic acid
rac-(1R,2R,6S,7S,8S,10R)-4-Oxatetracyclo[5.3.2.02,6.08,10]dodec-11-ene-3,5-dione (1.00 g, 5.26 mmol) was dissolved in methanol (20 mL). The reaction was stirred at 25° C. for 72 h. The mixture was concentrated in vacuo to afford a clear oil. Purification by flash column chromatography (Teledyne Isco RediSep column; 0 to 60% ethyl acetate in hexanes) afforded the desired product, rac-(1S,2S,4R,5R,6R,7S)-7-(Methoxycarbonyl)tricyclo[3.2.2.02,4]non-8-ene-6-carboxylic acid (1.11 g, 5.00 mmol, 95%), as a white solid. 1H NMR (400 MHz, DMSO-d6) δ: 0.01-0.10 (2H, m), 0.93-1.02 (2H, m), 2.98-3.05 (4H, m), 3.45 (3H, s), 5.68-5.77 (2H, m), 11.94 (1H, s). LC-MS (ESI) calcd for C12H14O4 222.24, found 223.2 [M+H+].

reactant | rac-(1R,2R,6S,7S,8S,10R)-4-Oxatetracyclo[5.3.2.02,6.08,10]dodec-11-ene-3,5-dione | 5.26 mmol, 1.00 g | C12C3C(OC(C3C(C3CC31)C=C2)=O)=O | C11H10O3
reactant | methanol | 20 mL | CO | CH4O
product | rac-(1S,2S,4R,5R,6R,7S)-7-(Methoxycarbonyl)tricyclo[3.2.2.02,4]non-8-ene-6-carboxylic acid | 5.00 mmol, 1.11 g, 95% | COC(=O)C1C(C2C3CC3C1C=C2)C(=O)O | C12H14O4
